Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Sulfa (Sulfonamide Antibiotics)
 
Attending: ___.
 
Chief Complaint:
lower back pain and R leg pain, inability to ambulate
 
Major Surgical or Invasive Procedure:
___ Vertebral Biopsy ___

 
History of Present Illness:
___ yo M with ESRD on HD (MWF), HTN, HLD, recent dx of 
cricopharyngeal hypertrophy with placement of G-tube for feeding 

(admitted to ___ ___ to ___, chronic lower back pain, and a
recent admission at ___ for pericardial tamponade s/p
pericardial drain ___ presenting with acute exacerbation of
lower back pain and right leg pain. 

Patient reports that his pain has been getting worse for several
weeks resulting in an inability to ambulate approximately ___
weeks ago (did not notice any increased weakness). Pain also
moved from the middle of his back to his lower back. His pain
regimen was continuously increased to most recently 650mg 
Tylenol
Q6H prn and Tramadol 100mg TID without significant relief. 

Yesterday, the pain got considerably worse and changed character
to a sharp pain that was intermittently shooting down the
anterior aspect of his R leg to his foot (unprovoked). He went 
to
see his vascular surgeon Dr. ___ morning for possible
revision of his fistula ("cleaning" fistula can still be used 
for
HD) when his pain got so bad that he was sent to the ED. 

Patient is anuric, denies bowel incontinence. Denies saddle
anesthesia. Denies a sense of weakness. 
Patient denies intravenous drug use. No h/o cancer. No
fevers/chills. No recent trauma.

In the ED:
- Initial vital signs were: 9 98.8 80 154/59 22 100% RA 

- Exam notable for:  MSK: +TTP in lumbar back and right/left
paraspinal areas, +pain in right leg and lower back with any
passive movement of right leg, +straight leg test in right leg
No objective leg weakness, normal rectal tone, no incontinence
symptoms

- Labs were notable for: WBC 6.5, Hgb 10.5, Plt 402, BUN 35, 
Crea
6.0

- Studies performed include: None

- Patient was given:
___ 13:05 IV HYDROmorphone (Dilaudid) 1 mg ___  
___ 14:52 IV Ketorolac 30 mg ___  
___ 16:05 PO Acetaminophen 1000 mg ___  
___ 16:05 TD Lidocaine 5% Patch 1 PTCH ___
Applied  
___ 16:41 IV HYDROmorphone (Dilaudid) .5 mg ___  


- Consults: None 

- Vitals on transfer:  8 98.0 78 150/69 18 100% RA 

Upon arrival to the floor, the patient reports that his pain has
improved with the pain medication he got in the ED and is now
___ (no leg pain). 

In addition, he reports that his PEG was accidentally removed
early last weak (he had been eating even before that but had 
only
taking thick liquids). Reportedly, two X-rays were taken at the
rehab but the results are unknown. It is unclear if a formal
speech and swallow eval has been done. 
 
Past Medical History:
1. CARDIAC RISK FACTORS  
- Hypertension (+)
2. CARDIAC HISTORY  
- cath in ___ mild coronary disease 
- echo ___ LVEF >55% 
- sinus rhythm 
3. OTHER PAST MEDICAL HISTORY  
-ESRD on HD MWF  
-Gout  
-Erectile dysfunction  
-Cricopharyngeal hypertonicity/hypertrophy
-C4-C5 diffuse idiopathic skeletal hyperostosis (DISH)
-Left subclavian steal syndrome
-Gastritis 
 
Social History:
___
Family History:
-Denies family hx of CAD, MI, CVA, kidney disease, cancer.
 
 
Physical Exam:
ADMISSION:
weight: 56.8 kg   (125.22 lb)  
VS: 98.2 PO 149 / 63 R Lying 71 16 96 Ra 
GENERAL: lying in bed, comfortable
HEENT: Normocephalic atraumatic. Sclera anicteric. PERRL. EOMI.
NECK: Supple. 
CARDIAC: Regular rate and rhythm. Systolic murmur II/VI best
heard at ___. 
LUNGS: No chest wall deformities or tenderness. CTAB
ABDOMEN: +BS, Soft, non-tender, non-distended. PEG insertion 
site
healed well, no discharge or erythema
MUSK: no TTP over spinal or paraspinal area. straight leg raise
positive at 10 degress (R leg) and 30 degrees (L leg)
EXTREMITIES: Warm, well perfused. No clubbing, cyanosis, or 
peripheral edema. Distal pulses present and symmetric

DISCHARGE: 
98.0 133/59 74 18 96 Ra 
GENERAL: lying in bed, pleasant
HEENT: Sclera anicteric. PERRL. EOMI.
CARDIAC: Regular rate and rhythm. Systolic murmur II/VI best
heard at ___. 
LUNGS: CTAB
ABDOMEN: +BS, Soft, non-tender, non-distended. PEG insertion 
site
healed well, no discharge or erythema
MUSK: no TTP over spinal or paraspinal area. Straight leg raise
positive bilaterally. R leg ___ proximally and L leg ___
proximally. Distally LEs ___ strength bilaterally. UE strength
intact. 
EXTREMITIES: Warm, well perfused. No edema. 
 
Pertinent Results:
ADMISSION: 
___ 11:30AM BLOOD WBC-6.5 RBC-4.12*# Hgb-10.5* Hct-34.3* 
MCV-83 MCH-25.5*# MCHC-30.6* RDW-22.0* RDWSD-62.9* Plt ___
___ 11:30AM BLOOD Neuts-82.4* Lymphs-5.6* Monos-10.7 
Eos-0.5* Baso-0.3 Im ___ AbsNeut-5.33 AbsLymp-0.36* 
AbsMono-0.69 AbsEos-0.03* AbsBaso-0.02
___ 06:00AM BLOOD ___ PTT-38.4* ___
___ 11:30AM BLOOD Glucose-77 UreaN-35* Creat-6.0* Na-137 
K-9.0* Cl-93* HCO3-23 AnGap-21*
___ 06:00AM BLOOD ALT-17 AST-28 LD(LDH)-218 AlkPhos-148* 
TotBili-0.4
___ 06:00AM BLOOD Albumin-3.1* Calcium-8.4 Phos-6.1* Mg-1.9
___ 06:00AM BLOOD PTH-500*
___ 06:30AM BLOOD CRP-62.2*
___ 06:50AM BLOOD CRP-93.9*
___ 06:50AM BLOOD PEP-NO SPECIFI FreeKap-189.6* 
FreeLam-358.7* Fr K/L-0.53 IgG-1466 IgA-265 IgM-64

DISCHARGE: 
___ 06:30AM BLOOD WBC-6.2 RBC-3.57* Hgb-9.1* Hct-31.3* 
MCV-88 MCH-25.5* MCHC-29.1* RDW-21.2* RDWSD-65.1* Plt ___
___ 06:30AM BLOOD ___ PTT-39.7* ___
___ 06:30AM BLOOD Glucose-91 UreaN-40* Creat-6.4*# Na-141 
K-4.5 Cl-97 HCO3-26 AnGap-18
___ 06:30AM BLOOD Calcium-8.9 Phos-3.7 Mg-2.0
___ 07:00AM BLOOD Vanco-15.7

IMAGING: 

MRI L SPINE W/ CONTRAST ___
1. Findings compatible with osteomyelitis discitis at L4-L5. 
2. Anterior epidural phlegmon formation at L4-L5. 
3. No significant change in severe spinal canal and neural 
foraminal narrowing 
at L4-L5. 
4. Previously described abnormal fluid signal within the psoas 
muscles and 
small microabscesses are better characterized on the prior MRI 
lumbar spine study. 

MRI L SPINE NON-CONTRAST ___:
1. Abnormal L4-5 disc space, paraspinal edema.  Findings most 
consistent with discitis, osteomyelitis.  Dialysis related 
spondyloarthropathy could have similar appearance.  Consider 
post gadolinium images and/or sagittal 
diffusion-weighted images of the lumbar spine if clinically 
indicated. 
2. Severe central canal narrowing L4-5 level. 
3. Multilevel foraminal narrowing as above. 
4. Degenerative changes of the lumbar spine. 
5. Diffusely reduced T1 marrow signal, nonspecific, likely 
related to history of anemia, smoking or other benign, or less 
likely neoplastic infiltrative process. 
RECOMMENDATION(S):  Consider postcontrast MRI lumbar spine 
and/or 
diffusion-weighted images. 

 
Brief Hospital Course:
Mr. ___ man with ESRD on HD and chronic low back pain 
who presented with acute on chronic low back pain, found to have 
T4/T5 osteomyelitlis.

#T4/T5 osteomyelitis:
The patient presented with several weeks of pain and progressive 
lower extremity weakness. Although without fevers, leukocytosis, 
or vertebral tenderness, MRI was suggestive of T4/5 
osteomyelitis. ___ guided vertebral biopsy was obtained and did 
not grow in micro cultures. He began broad-spectrum treatment 
with IV antibiotics. Continue 6 week course of vancomycin plus 
ceftazidime with HD as below with outpatient labs and follow-up 
as below. Change from tramadol to oxycodone for pain as below.

# S/p PEG removal
# H/o dysphagia ___ cricopharyngeal hyperplasia
PEG incidentally removed and site looks clean and intact. Spoke 
with PCP and PEG was planned for removal. ___ was notified. 
Patient is okay for PO (verified with S&S).

# ESRD: ESRD ___ long-standing HTN on HD MWF through LUE 
AV-fistula since ___. He received hemodialysis while in-house 
including after his MRI with contrast. He was continued on 
cinacalcet 30mg daily, nephrocaps. Follow-up with transplant 
surgery for outpatient fistula procedure when appropriate 
considering antibiotic course.

# H/o pericardial effusion ___: Normotensive, stable. 

#Anemia: Baseline Hgb in ___ in the 8s, in the ___ on 
admission, stable, not requiring transfusion. Likely iso ESRD.

#Gastritis: Seen on EGD ___, s/p 10 week course of PPI BID. 
Continued on Omeprazole 20mg BID.

#Essential hypertension:
#Carotid bruit/Subclavian steal: In ___, carotid dopplers w/ 
e/o left subclavian steal during prior hospitalizations. 
Vascular surgery consulted during prior hospitalization, decided 
no need for intervention. Sent home on ASCVD treatment and BP 
control. Continue on aspirin and atorvastatin. Continue 
amlodipine 2.5 daily.

#Gout: H/o gout in left first metatarsal. Stable. Continue 
Allopurinol HD dosing.

#Depression: Stable. Continue Mirtazipine 7.5 mg.

TRANSITIONAL ISSUES:
[ ] Antibiotics plan for osteomyelitis:
CefTAZidime 2 g IV POST HD ___ AND ___
CefTAZidime 3 g IV POST HD (___)
Vancomycin 1g IV with HD
Start Date: ___ 
Projected End Date: ___
[ ] Outpatient labs plan:
WEEKLY: CBC with differential, BUN, Cr, Vancomycin trough (prior 
to dialysis), CRP
ALL LAB RESULTS SHOULD BE SENT TO:
ATTN: ___ CLINIC - FAX: ___
[ ] Started on oxycodone for pain management, please WEAN as 
tolerated
[ ] Tramadol was discontinued
[ ] FOLLOW UP WITH ___ CLINIC - 4 AND 6 WEEKS OF THERAPY
[ ] Allopurinol was dosed for hemodialysis
[ ] Started nystatin for possible thrush, discontinue as 
symptoms improve or ___ days
[ ] Follow-up with transplant surgery for outpatient fistula 
procedure when appropriate considering antibiotic course
[ ] Follow-up remaining tissue cultures and pathology from spine

# CODE: full code per son HCP with Limited trial of 
life-sustaining treatments (confirmed ___
# CONTACT/HCP: ___ son and HCP ___ or his wife
___ (___)
 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. Milk of Magnesia 30 mL PO PRN constipation 
3. Nephrocaps 1 CAP PO DAILY 
4. Salonpas (methyl salicylate-menthol) ___ % topical unknown 
5. Acetaminophen 650 mg PO Q6H:PRN Pain - Mild 
6. Allopurinol ___ mg PO DAILY 
7. amLODIPine 2.5 mg PO QPM 
8. Atorvastatin 40 mg PO QPM 
9. Bisacodyl 10 mg PO/PR DAILY:PRN constipation 
10. Docusate Sodium 100 mg PO BID:PRN constipation 
11. Mirtazapine 7.5 mg PO QHS 
12. Senna 8.6 mg PO BID:PRN constipation 
13. Omeprazole 20 mg PO BID 
14. Cinacalcet 30 mg PO DAILY 
15. TraMADol 100 mg PO TID 

 
Discharge Medications:
1.  CefTAZidime 2 g IV POST HD (MO,WE)  
2.  CefTAZidime 3 g IV POST HD (FR) 
   
3.  Nystatin Oral Suspension 5 mL PO QID:PRN oral thrush  
4.  OxyCODONE (Immediate Release) 5 mg PO Q6H 
PLEASE WEAN AS TOLERATED. 
RX *oxycodone 5 mg 1 tablet(s) by mouth every six (6) hours Disp 
#*28 Tablet Refills:*0 
5.  Vancomycin 1000 mg IV HD PROTOCOL  
6.  Allopurinol ___ mg PO EVERY OTHER DAY  
7.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild  
8.  amLODIPine 2.5 mg PO QPM  
9.  Aspirin 81 mg PO DAILY  
10.  Atorvastatin 40 mg PO QPM  
11.  Bisacodyl 10 mg PO/PR DAILY:PRN constipation  
12.  Cinacalcet 30 mg PO DAILY  
13.  Docusate Sodium 100 mg PO BID:PRN constipation  
14.  Mirtazapine 7.5 mg PO QHS  
15.  Nephrocaps 1 CAP PO DAILY  
16.  Omeprazole 20 mg PO BID  
17.  Salonpas (methyl salicylate-menthol) ___ % topical unknown 
 
18.  Senna 8.6 mg PO BID:PRN constipation  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
#Vertebral Osteomyelitis
#ESRD on HD
#HTN

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Mr. ___,

You were admitted to ___ for 
back pain.

While you were here:
-We treated your pain with medications
-We did imaging which was suggestive of an infection of your 
spine
-We sampled tissue from her spine which did not grow any 
bacteria
-We started antibiotics to treat any bacteria that may be in 
your spine

When you go home:
-Please follow-up with the below doctors
-___ continue all medications as directed

We wish you the best,
Your ___ care team
 
Followup Instructions:
___